US05910506
Synthesis of 5-(3,5-dimethylphenylsulfonyl)-4-isopropyl-1,2-dimethyl-1H-imidazole (Compound I-105)
In methylene chloride (6 ml)was dissolved 60 mg (0.20 mmol)of 5-(3,5-dimethylphenylthio)-4-isopropyl-1,2-dimethyl-1H-imidazole, followed by addition of 223 mg (1.00 mmol)of 80% metachloroperbenzoic acid, and the mixture was stirred at room temperature for 1 hour. To the reaction mixture, an aqueous solution of sodium thiosulfate and then an aqueous solution of sodium hydrogen carbonate were added, and the mixture was extracted with methylene chloride. The extract was washed with saturated brine and dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The residue purified by silica gel chromatography (ethyl acetate), and recrystallized from n-hexane, to give 24 mg of Compound I-105 (yield 39%), mp 126-128° C.

reactant | 5-(3,5-dimethylphenylthio)-4-isopropyl-1,2-dimethyl-1H-imidazole | 0.20 mmol, 60 mg | CC=1C=C(C=C(C1)C)SC1=C(N=C(N1C)C)C(C)C | C16H22N2S
reactant | metachloroperbenzoic acid | 1.00 mmol, 223 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 5-(3,5-dimethylphenylsulfonyl)-4-isopropyl-1,2-dimethyl-1H-imidazole | 24 mg, yield 39% | CC=1C=C(C=C(C1)C)S(=O)(=O)C1=C(N=C(N1C)C)C(C)C | C16H22N2O2S
